US07312212B2
(a) (1-(R)-Phenylethyl)-(2,2,2-trifluoroethylidene)amine
To solution of (trifluoromethyl)acetaldehyde ethyl hemiacetal (1.2 equiv.) in toluene is added (R)-(+)-α-methylbenzylamine (1 equiv.) and catalytic amount of p-toluenesulfonic acid. The solution is heated at reflux under a Dean-Stark apparatus. After 3 hr, the reaction flask is fitted with a short-path condenser and the reaction contents were fractionally distilled to give the title compound as a colorless oil.

reactant | (trifluoromethyl)acetaldehyde ethyl hemiacetal | 1.2 equiv. | C(C)OC(CC(F)(F)F)O | C5H9F3O2
reactant | (R)-(+)-α-methylbenzylamine | 1 equiv. | C[C@H](C1=CC=CC=C1)N | C8H11N
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (1-(R)-Phenylethyl)-(2,2,2-trifluoroethylidene)amine | C1(=CC=CC=C1)[C@@H](C)N=CC(F)(F)F | C10H10F3N
